US07173030B2
tert-Butyl [3-(1-cyanoethyl)-1,2,4-thiadiazol-5-yl]carbamate (0.65 mmol) was dissolved in MeOH (15 mL) and a catalytic amount of Raney-Ni (50% in H2O) was added. The reaction mixture was stirred at room temperature for 3 h under H2 (50 psi). The reaction mixture was filtered through a pad of CELITE and the solvent was removed under reduced pressure. Purification using preparative LCMS afforded the tert-butyl [3-(2-amino-1-methylethyl)-1,2,4-thiadiazol-5-yl]carbamate.

reactant | tert-Butyl [3-(1-cyanoethyl)-1,2,4-thiadiazol-5-yl]carbamate | 0.65 mmol | C(#N)C(C)C1=NSC(=N1)NC(OC(C)(C)C)=O | C10H14N4O2S
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | tert-butyl [3-(2-amino-1-methylethyl)-1,2,4-thiadiazol-5-yl]carbamate | NCC(C)C1=NSC(=N1)NC(OC(C)(C)C)=O | C10H18N4O2S
